US09108939B2
E: 4-(3-(Cyclopropylmethyl)ureido)-N-(1-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)-N-methylbenzamide
To a mixture of 4-(3-(cyclopropylmethyl)ureido)benzoic acid (0.810 mmol, 190 mg), 1,1,1,3,3,3-hexafluoro-2-(4-((4-(methylamino)piperidin-1-yl)methyl)phenyl)propan-2-ol (0.810 mmol, 300 mg) and triethylamine (1.944 mmol, 0.271 mL, 197 mg) in dichloromethane (50 mL) was added N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrochloride (0.972 mmol, 186 mg). The reaction was stirred for 24 hours. Chromatography on silica eluting with dichloromethane to dichloromethane/methanol (10%) gave the title compound (370 mg).

reactant | 4-(3-(cyclopropylmethyl)ureido)benzoic acid | 0.810 mmol, 190 mg | C1(CC1)CNC(NC1=CC=C(C(=O)O)C=C1)=O | C12H14N2O3
reactant | 1,1,1,3,3,3-hexafluoro-2-(4-((4-(methylamino)piperidin-1-yl)methyl)phenyl)propan-2-ol | 0.810 mmol, 300 mg | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)CN1CCC(CC1)NC)(F)F | C16H20F6N2O
reactant | triethylamine | 1.944 mmol, 0.271 mL, 197 mg | C(C)N(CC)CC | C6H15N
reactant | N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrochloride | 0.972 mmol, 186 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane methanol | ClCCl.CO
product | 4-(3-(Cyclopropylmethyl)ureido)-N-(1-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)-N-methylbenzamide | 370 mg | C1(CC1)CNC(NC1=CC=C(C(=O)N(C)C2CCN(CC2)CC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)O)C=C1)=O | C28H32F6N4O3
